US05134128
5-Acetoxy-4-(1-acetoxynonyl)-2(5H)-furanone
A mixture of 4-(1-acetoxynonyl)-5-hydroxy-2(5H)-furanone (77.3 mg, 0.27 mmol), acetic anhydride (1/2 ml) and pyridine (1 ml) was stirred under argon at ca. 20° for 20h. After most of the solvent was removed under high vacuum (<40°), the residue was dissolved in ether (20 ml) and washed thoroughly with aqueous copper sulfate and water. Drying (magnesium sulfate) and evaporation gave a brown oil, which was flash chromatographed on silica using 30% ethyl ether/petroleum ether. Fractions with Rf 0.22 on evaporation afforded the title compound as a light yellow oil.

reactant | 4-(1-acetoxynonyl)-5-hydroxy-2(5H)-furanone | 0.27 mmol, 77.3 mg | C(C)(=O)OC(CCCCCCCC)C1=CC(OC1O)=O | C15H24O5
reactant | acetic anhydride | 1/2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetoxy-4-(1-acetoxynonyl)-2(5H)-furanone | C(C)(=O)OC1C(=CC(O1)=O)C(CCCCCCCC)OC(C)=O | C17H26O6
